Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
admission for blood transfusion/iron pre-op  

 
Major Surgical or Invasive Procedure:
Laparoscopic right colectomy, placement of CyberKnife fiducial

 
History of Present Illness:
Mr ___ is a ___ year old gentleman with CHB s/p pacemaker, sCHF, 
presumed CAD s/p NSTEMI (no cath), with recently diagnosed 
widely metastatic colon cancer resulting in persistent blood 
loss and anemia. 
 
Initially presented in ___ with chest pain, diagnosed with 
possible NSTEMI in setting of anemia, found to be iron 
deficient, refered for colonoscopy which showed polyps, with 
path concerning for cancer, though non-diagnositic. Subsequenct 
CT showed cecal mass on CT, as well as possible liver, lung and 
bone mets. Continued to bleed. Case was presented to Colorectal 
Tumor Board, who felt a laproscopic colectomy for palliation 
given on-going blood loss was a reasonable option to offer 
patient. Patient was initially agreeable, though per last 
palliative care note patient seems less certian about surgery. 

Presented to ___ clinic today to recieve IV iron today, 
with plans to get 2 U PRBCs on ___, get another infusion of 
IV iron ___, and then be admitted for bed with surgery 
___. However, heme-onc fellow decided to admit today.     
 
On floor, reports feeling well. Had a fall earlier in the week, 
bruising right elbow and ribs, area is tender but not 
significantly painful. Denies CP, SOB, or 
lightheadedness/dizziness. Reports he has ___ stool, no frank 
blood. 

After a discussion about surgery he endorses he does not want 
the surgery, but that it is a "neccessary evil", which he needs. 
He understands the risks of the procedure, and is planning on 
having it done on ___.  
 
Past Medical History:
- admitted to hosptial ___ with chest pain, found to 
have pulmonary edema and possible NSTEMI, was also found to be 
iron deficient and anemic, refered for colonoscopy.
- ___ colonocscopy/EGD showed polyp in the proximal ascending 
colon, polyp in cecum, general diverticulosis - polyp biopsies 
were concerning for adenoma. 
- ___ CT torso showed lung, rib and liver nodules concerning 
for metastasis as well as a 3.8 cm mass proximal to the 
ileocecal valve which narrows the lumen of the cecum without 
obstruction.
- ___ presented to colorectal tumor board, who decided to 
offer lap colectomy for palliation given continued blood loss.

Other PMH/PSH:
Complete Heart Block- s/p pacemaker placement in ___- (per 
recent OMR EP note- underlying intrinsic rhythm is complete 
heart block with no ventricular response, pacemaker is 
programmed in the DDD mode with a lower rate of 55 and an upper 
track rate of 130 beats per minute)
Osteoarthritis
Gait disturbance
Glaucoma
BPH

 
Social History:
___
Family History:
No family history of colon cancer  

 
Physical Exam:
ADMISSION EXAM: 
===============
97.9 103/53 80 18 99  
GENERAL: very pleasant, well appearing older gentleman
HEENT: poor vision ___ cataract in left eye, macular 
degeneration in right, clear OP with dentures in place 
CARDIAC: RRR, nl S1/S2 no murmurs
LUNG: faint crackles in bases, otherwise clear
ABDOMEN: +BS, NTND, no masses 
EXTREMITIES: trace pitting edema at ankles, WWP, small partial 
skin thickness ulcer on large left toe  
NEURO: AOx3, CN2-12 intact, strength ___ throughout 
SKIN: diffuse AKs and sebKs over most of skin, particularly in 
sun exposed areas, bruising on right elbow

DISCHARGE PHYSICAL EXAM:
AVSS
Gen: alert and oriented x3, no acute distress
HEENT: unchanged
CV: RRR
Pulm: unlabored
Abdomen: Soft, non-tender, non-distended, laparoscopic incisions 
healing well
Ext: warm and well perfused  

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 04:55PM   UREA N-29* CREAT-1.3* SODIUM-140 
POTASSIUM-5.0 CHLORIDE-105 TOTAL CO2-23 ANION GAP-17
___ 04:55PM   WBC-6.9 RBC-3.47* HGB-7.5* HCT-25.8* MCV-74* 
MCH-21.7* MCHC-29.1* RDW-17.8*
___ 04:55PM   NEUTS-72.3* ___ MONOS-6.2 EOS-1.0 
BASOS-0.5
___ 04:55PM   PLT COUNT-247

Discharge labs:

___ 06:45AM BLOOD WBC-7.8 RBC-3.71* Hgb-9.1* Hct-29.6* 
MCV-80* MCH-24.4* MCHC-30.6* RDW-21.4* Plt ___
___ 06:45AM BLOOD Glucose-112* UreaN-16 Creat-1.1 Na-139 
K-4.6 Cl-105 HCO3-26 AnGap-13
___ 06:45AM BLOOD Calcium-8.4 Phos-3.5 Mg-2.3
 
Brief Hospital Course:
On medical service:
Mr ___ is a ___ year old gentleman with CHB s/p pacemaker, sCHF, 
presumed CAD s/p NSTEMI (no cath), with recently diagnosed 
widely metastatic colon cancer resulting in persistent blood 
loss and anemia, presenting for palliative laproscopic partial 
colectomy.  

# ANEMIA: Hgb 7.5 on ___, microcytic with wide RDW, known iron 
deficiency from blood loss. Recieved dose of ferraheme ___. 
Transfused 2 U PRBCs on ___, Hct 33.7 ___, stable. To recieve 
second dose of ferraheme ___.

# ___: Cr 1.4 on admission from baseline of 1.0. Improved to 1.1 
on ___. Likely in setting of volume depletion with continued 
bleed.
 
# METASTATIC COLON CANCER: admitted for transfusions prior to 
planned palliative laproscopic parital colectomy on ___. 
Held aspirin pre-op. 
 
# ___/CAD: EF 42% continued home lasix 20mg PO daily, ace-i, 
BB, and statin 

On surgical service:
Mr. ___ underwent a laparoscopic palliative right colectomy 
___ which was uncomplicated. The reader is referred to the 
operative note for further detail.  He was subsequently placed 
on the standard colorectal pathway.  He was given sips to a 
clear liquid diet on POD1 which he tolerated well.  He was 
started on his home medications including lasix and his foley 
catheter was removed.  He did however retain urine, was straight 
catheterized once, and had a foley catheter replaced.  He was 
given some toast and crackers on POD2 and advanced to a regular 
diet on POD3 after passing flatus.  Prior to discharge he did 
walk with physical therapy who recommended that he go to rehab.

On ___, the patient was discharged to rehab. At discharge, 
he was tolerating a regular diet, passing flatus, stooling, 
voiding, and ambulating with assistance. He will follow-up in 
the clinic in ___ weeks. This information was communicated to 
the patient directly prior to discharge. 

Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure 
[ ] ARF
[x ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[] None

Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehabilitation hospital 
disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
discharge. 
[x] No social factors contributing in delay of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Nitroglycerin SL 0.4 mg SL PRN chest pain 
5. Senna 1 TAB PO HS 
6. melatonin 1 mg oral hs prn insomnia 
7. Lisinopril 10 mg PO DAILY 
8. Metoprolol Succinate XL 12.5 mg PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY 
10. Furosemide 20 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Metoprolol Succinate XL 12.5 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Acetaminophen 650 mg PO TID 
7. Tamsulosin 0.4 mg PO HS 
8. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
9. Atorvastatin 80 mg PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. melatonin 1 mg oral hs prn insomnia 
12. Nitroglycerin SL 0.4 mg SL PRN chest pain 
13. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Bleeding, right-sided colon cancer with liver metastasis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after a Laparoscopic Right 
Colectomy for surgical management of your bleeding colon mass. 
You have recovered from this procedure well and you are now 
ready to return home. Samples from your colon were taken and 
this tissue has been sent to the pathology department for 
analysis. You will receive these pathology results at your 
follow-up appointment. If there is an urgent need for the 
surgeon to contact you regarding these results they will contact 
you before this time. You have tolerated a regular diet, are 
passing gas and your pain is controlled with pain medications by 
mouth. You may return home to finish your recovery.
 
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but you should not have prolonged constipation. Some loose stool 
and passing of small amounts of dark, old appearing blood are 
expected. However, if you notice that you are passing bright red 
blood with bowel movements or having loose stool without 
improvement please call the office or go to the emergency room 
if the symptoms are severe. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace, and if the symptoms do not improve call the 
office. If you have any of the following symptoms please call 
the office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or extended constipation.
 
You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures and a skin glue called 
Dermabond. These are healing well however it is important that 
you monitor these areas for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/malodorous drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. Please call the office if you develop any 
of these symptoms or a fever. You may go to the emergency room 
if your symptoms are severe. 

You may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips) instead of 
Dermabond, these will fall off over time, please do not remove 
them. Please no baths or swimming for 6 weeks after surgery 
unless told otherwise by Dr. ___ Dr. ___.
 
You may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.

No heavy lifting greater than 6 lbs for until your first 
post-operative visit after surgery. Please no strenuous activity 
until this time unless instructed otherwise by Dr. ___ Dr. 
___.
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___